US04267180
A solution of 0.928 g (3.2 mmol ) of 2-[4-(N-glycylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid and 25 ml of water is treated with 1 ml (7.2 mmol) of triethylamine followed by 1.3 g (16 mmol) of potassium cyanate. After standing at room temperature overnight a 0.5 g (6.2 mmol) portion of potassium cyanate is added and the reaction mixture is allowed to stand at room temperature for another 18 hrs. The solution is concentrated in vacuo to 1/3 its volume and acidified to pH 2.5 with hydrochloric acid. The product is filtered, washed with water, ethanol, and ether to give 1.0 g of 2-[4-(N-carbamoylglycylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid.

reactant | 2-[4-(N-glycylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 3.2 mmol, 0.928 g | NCC(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C13H12N4O4
reactant | triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | potassium cyanate | 16 mmol, 1.3 g | [O-]C#N.[K+]
solvent | water | 25 ml | O | H2O
product | 2-[4-(N-carbamoylglycylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 1.0 g | C(N)(=O)NCC(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C14H13N5O5
